US04918252
A Grignard mixture containing 3 moles of 8-chloro-1-octynyl magnesium chloride in 900 g of tetrahydrofuran was introduced into a reaction vessel and agitated for several minutes with addition of 3 g of copper (I) chloride. Thereafteer, 271.5 g (3 moles) of (E)-2-butenyl chloride were added dropwise to the mixture which was kept at a temperature not to exceed 65° C. followed by further continued agitation for 1.5 hours to complete the reaction. Thereafter, 800 g of an aqueous solution containing 5% ammonium chloride and 5% hydrogen chloride were added to the reaction mixture to effect the hydrolysis. The mixture was then subjected to phase separation and the organic phase was freed from tetrahydrofuran and then to rectification distillation to give 451 g of 1-chloro-(E)-10-dodecen-7-yne having a purity of 95%. The yield of this compound was 72% of the theoretical value.

reactant | 8-chloro-1-octynyl magnesium chloride | 3 moles | ClCCCCCCC#C[Mg]Cl
reactant | (E)-2-butenyl chloride | 3 moles, 271.5 g | C(\C=C\C)Cl | C4H7Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 900 g | O1CCCC1 | C4H8O
catalyst | copper (I) chloride | 3 g | [Cu]Cl
product | 1-chloro-(E)-10-dodecen-7-yne | 451 g | ClCCCCCCC#CC\C=C\C | C12H19Cl
